US06500863B1
N-((2R)-Tetrahydrofurfuryl)-6chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-((2R)-tetrahydrofurfuryl)-2,6dichloro-3-nitrobenzenesulfonamide (1.17 g, 3.29 mmol), 80% NaH (303 mg, 10.1 mmol) and water (0.063 mL, 3.49 mmol) were reacted to form the desired product (690 mg, 63%). EI-MS m/z 335(M-H)−.

reactant | N-((2R)-tetrahydrofurfuryl)-2,6dichloro-3-nitrobenzenesulfonamide | 3.29 mmol, 1.17 g | C([C@H]1CCCO1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C11H12Cl2N2O5S
reactant | NaH | 10.1 mmol, 303 mg | [H-].[Na+]
reactant | water | 3.49 mmol, 0.063 mL | O | H2O
product | N-((2R)-Tetrahydrofurfuryl)-6chloro-2-hydroxy-3-nitrobenzenesulfonamide | 690 mg, 63% | C([C@H]1CCCO1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C11H13ClN2O6S
